US05043446
4-Hydroxy-2,5,6-triaminopyrimidine 2HCl (18.0 g, 0.084 mol) was suspended in a mixed solution (540 ml) of methanol and water (3:2), to which was added dropwise mercaptoethyl alcohol (1.0 ml) and then a solution of the crude phenylhydrazone (18.9 g) as previously prepared in a mixed solution (200 ml) of methanol and water (3:2) was poured into the suspension. The mixture was stirred in an argon atmosphere at room temperature for 1 hour and then stirred under heat at 60°-70° C. for 40 minutes. The reaction solution was cooled to -10° C. and into the solution was poured over a period of 10 minutes a solution of iodine (40 g, 0.158 mol), potassium iodide (66 g, 0.398 mol), potassium ferricyanide (40 g, 0.122 mol) and 80% formic acid (40 ml) in water (1 lit.). After air was bubbled into the solution at 0° C. for 1.5 hours, the reaction solution as concentrated in vacuo, the residue was extracted with 10% ammonia water (1 lit.), insoluble matter was filtered off, the filtrate was concentrated, the residue was again dissolved in 2% ammonia water (2 lit.) and separated by ion-exchange resin column chromatography (DOWEX 1×8; 10 cm×40 cm; 0.15 N ammonium formate buffer solution (pH 9)). The effluent was concentrated in vacuo, the residue was dissolved in 10% ammonia water (240 ml) and decolorized by activated charcoal. The solution was concentrated in vacuo to 1/3 of the total amount, left to stand overnight under ice-cooling, the precipitated pale yellow solid was washed with ice water and ethanol and dried in vacuo (80° C., 6 hrs.) to give 5.00 g (0.021 mole) of l-biopterin.

reactant | 4-Hydroxy-2,5,6-triaminopyrimidine 2HCl | 0.084 mol, 18.0 g | Cl.Cl.OC1=NC(=NC(=C1N)N)N
reactant | mercaptoethyl alcohol | 1.0 ml | SCCO | C2H6OS
reactant | iodine | 0.158 mol, 40 g | II | I2
reactant | potassium iodide | 0.398 mol, 66 g | [I-].[K+]
solvent | water | 1 lit. | O | H2O
catalyst | potassium ferricyanide | 0.122 mol, 40 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | formic acid | 40 ml | C(=O)O | CH2O2
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 540 ml | CO | CH4O
product | l-biopterin | 0.021 mole, 5.00 g | C[C@@H]([C@@H](C1=CN=C2C(=N1)C(=O)N=C(N2)N)O)O | C9H11N5O3
